US08097654B2
(2S,3S)-3-[3-(4-iodobenzoylamino)benzyloxy]aspartic acid (I-BzA-TBOA)
Protected I-BzA-TBOA (120 mg, 0.17 mmol) was dissolved in 1 ml of chloroform. After adding 1 ml of TFA, the obtained mixture was stirred for 24 hours. Then the solvent was distilled off and water was added to the residue followed by repeated freeze-drying. Thus, 78 mg (76%) of the title compound was obtained. Amorphous product; [α]D −37.7° (c 0.34, CHCl3); 1H NMR (CDCl3, 400 MHz); ™4.30 (d, 1 H, J=5.0 Hz), 4.45 (d, 1 H, J=11.0 Hz), 4.68 (d, 1 H, J=11.0 Hz), 7.14 (d, 1 H, J=7.5 Hz), 7.30 (t, 1 H, J=8.0 Hz), 7.59 (s, 1 H), 7.64 (d, 1 H, J=8.5 Hz), 7.67 (d, 2 H, J=7.5 Hz), 7.86 (d, 2 H, J=7.5 Hz).

reactant | I-BzA TBOA | 0.17 mmol, 120 mg | CCN(CC)CCNC(=O)C1=CC=C(C=C1)I.C1=CC=C(C=C1)CO[C@@H]([C@@H](C(=O)O)N)C(=O)O
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | (2S,3S)-3-[3-(4-iodobenzoylamino)benzyloxy]aspartic acid | 78 mg, 76% | IC1=CC=C(C(=O)NC=2C=C(CO[C@@H]([C@H](N)C(=O)O)C(=O)O)C=CC2)C=C1 | C18H17IN2O6
